US07807709B2
d. 4-Difluoromethyl-3-(3-methoxy-propoxy)-benzoic acid
1N aqueous KOH (6.7 mL, 6.7 mmol) is slowly added to a solution of 4-difluoromethyl-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester (1.48 g, 4.45 mmol) in MeOH (5 mL) and the reaction mixture is stirred at RT for 60 h. For workup the mixture is concentrated under reduced pressure, the residue is taken up in 2N HCl (until a pH=1 is obtained) and extracted with ethyl acetate. The combined organic extracts are washed with brine, dried (Na2SO4), filtered and the solvent is evaporated to give the title compound. MS (LC-MS): 259.1 [M−H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.89 min.

reactant | KOH | 6.7 mmol, 1N, 6.7 mL | [OH-].[K+]
reactant | 4-difluoromethyl-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester | 4.45 mmol, 1.48 g | COCCCOC(C1=CC(=C(C=C1)C(F)F)OCCCOC)=O | C16H22F2O5
solvent | MeOH | 5 mL | CO | CH4O
product | 4-Difluoromethyl-3-(3-methoxy-propoxy)-benzoic acid | FC(C1=C(C=C(C(=O)O)C=C1)OCCCOC)F | C12H14F2O4
